US07977344B2
6-Amino-2-{[1-methyl-2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-3-ylmethyl)-7,9-dihydro-8H-Purin-8-one
To a solution of 2-{[1-methyl-2-(methoxy)ethyl]oxy}-8-(methyloxy)-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purin-6-amine (290 mg) in dry methanol (12 ml) at room temperature and under nitrogen was added 4.0M hydrogen chloride in 1,4-dioxane (5.0 ml). The reaction was left to stir at room temperature for 1 hour. The reaction was concentrated in vacuo and the resulting residue purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluant (10-45%) to afford a white solid. This was taken up in water (15 ml) and neutralised by the addition of 2.0M sodium hydroxide solution. The solid was filtered and dried on the rotary evaporator (60° C.) for 30 minutes (50 mg).

reactant | 2-{[1-methyl-2-(methoxy)ethyl]oxy}-8-(methyloxy)-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purin-6-amine | 290 mg | CC(COC)OC1=NC(=C2N=C(N(C2=N1)CC1COCCC1)OC)N | C16H25N5O4
reactant | hydrogen chloride | 4.0M | Cl | ClH
reactant | sodium hydroxide | 2.0M | [OH-].[Na+]
solvent | methanol | 12 ml | CO | CH4O
solvent | 1,4-dioxane | 5.0 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
product | 6-Amino-2-{[1-methyl-2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-3-ylmethyl)-7,9-dihydro-8H-Purin-8-one | NC1=C2NC(N(C2=NC(=N1)OC(COC)C)CC1COCCC1)=O | C15H23N5O4
